US09238639B2
C) Methyl(4-hydroxy-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4,6-dihydroxy-1-benzothiophen-3-yl)acetate (7.7 g) and DMF (dry) (150 mL) was added imidazole (4.40 g) at room temperature, and the mixture was added slowly triisopropylsilyl chloride (7.61 mL) over a period of 20 min, and the mixture was stirred at room temperature for 48 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (8.10 g).

reactant | methyl(4,6-dihydroxy-1-benzothiophen-3-yl)acetate | 7.7 g | COC(CC1=CSC2=C1C(=CC(=C2)O)O)=O | C11H10O4S
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
reactant | imidazole | 4.40 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 7.61 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | water | O | H2O
product | Methyl(4-hydroxy-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 8.10 g | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)O)=O | C20H30O4SSi
